US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-{2-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-ylmethyl)benzimidazol-1-yl]ethoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
Potassium carbonate(0.58 g), sodium iodide(0.21 g), and 5-(1H-benzimidazol-2-ylmethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one(0.39 g) were added to a DMF solution(30 ml) of 7-(2-chloroethoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.47 g). The mixture was stirred at 65° C. overnight. The mixture was further stirred at 100° C. overnight. After the reaction mixture was condensed under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate: methanol=95:5→85:15). The purified product was condensed to dryness under reduced pressure to give the title compound(0.44 g) as a white amorphous solid.

reactant | Potassium carbonate | 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.21 g | [I-].[Na+]
reactant | 5-(1H-benzimidazol-2-ylmethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one | 0.39 g | N1C(=NC2=C1C=CC=C2)CN2C(C1=C(C=C2)OC(=C1)C)=O | C16H13N3O2
reactant | 7-(2-chloroethoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.47 g | ClCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C16H21ClN2O3
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-3,3,5-trimethyl-7-{2-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-ylmethyl)benzimidazol-1-yl]ethoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.44 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCN2C(=NC1=C2C=CC=C1)CN1C(C2=C(C=C1)OC(=C2)C)=O | C32H33N5O5
